plaintext
* MOSFET Amplifier Circuit
VDD VDD 0 DC 10
RS VDD M1_SOURCE 1k
? Missing component
V_IN VIN 0 DC 0
M1 M1_DRAIN VIN M1_SOURCE M1_SOURCE NMOS
* Model for NMOS
.model NMOS NMOS (LEVEL=1)
.end
